Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6],6.36038933607
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.29215306816
[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][O:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],3.4176791952900003
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.97841953378
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8][H:9],4.325833848309999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.30889171809
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5],2.94384904854
[O:1][C:2]([H:3])([H:4])/[C:7]([H:8])=[C:9](\[H:10])[C:11](=[C:5]([H:6])[H:13])[H:12]>>[O:1][C:2]([H:3])([H:4])[C@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13],0.36645030783
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15],-5.25680771796
[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12],-1.96333871407
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],2.02498234476
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.39557849506
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.40802033526
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.96829401379
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:8]([H:9])([H:10])=[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],1.5333645528100002
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],1.45156920391
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],-2.09948646642
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2](=[O:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.189971751
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.78204093176
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6],6.65850427511
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],1.72613356603
[C:5]#[C:6][H:7].[O:1][C:2]#[C:3][O:4]>>[O:1][C:2](=[C:3]=[O:4])[C:5]#[C:6][H:7],-6.12455160228
[H:1][C:2]=[C:3]([H:4])[C@@:5]1([H:6])[C:7][C:8]1[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10],-1.8656758576900003
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])(/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],4.89169611015
[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[O:11]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-1.46788604239
[H:12].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],-3.89317146698
[H:1][O:2][C:3]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4]=[O:5])[C:9]([C:6]([H:7])[H:8])([H:10])[H:11],-0.369190487661
[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],-6.16221646523
[H:13].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.04999982709
